US08252806B2
Benzyl-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride (Compound A12)
Was prepared according to Method A from 2,4-dichloroquinazoline, benzylamine and 3,5-dimethylpyrazole. Mp. 160.2° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | Benzyl-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride | Cl.C(C1=CC=CC=C1)NC1=NC(=NC2=CC=CC=C12)N1N=C(C=C1C)C | InChI=1S/C20H19N5.ClH/c1-14-12-15(2)25(24-14)20-22-18-11-7-6-10-17(18)19(23-20)21-13-16-8-4-3-5-9-16;/h3-12H,13H2,1-2H3,(H,21,22,23);1H
